US06107458
A mixture of 2-Carbamoyl-5-methoxybenzo[b]thiophene (2.0 g), acetic acid (5 ml) and 48% hydrobromic acid (20 ml) was stirred for 16 hours at 110° C., and the mixture was poured into the ice-water. The resulting precipitate was collected by filtration, and dried to give 5-Hydroxybenzo[b]thiophene-2-carboxylic acid (1.66 g).

reactant | 2-Carbamoyl-5-methoxybenzo[b]thiophene | 2.0 g | C(N)(=O)C1=CC2=C(S1)C=CC(=C2)OC | C10H9NO2S
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-Hydroxybenzo[b]thiophene-2-carboxylic acid | 1.66 g | OC1=CC2=C(SC(=C2)C(=O)O)C=C1 | C9H6O3S
